US05488055
1-Aminomethyl-1-cyclohexanol hydrochloride (1 g, 6.04 mmol) was dissolved in cold water and then K2CO3 and ether were added. The mixture was stirred and then the ether layer was separated and the aqueous layer was again extracted with ether. The ether layers were combined, dried over MgSO4 and concentrated to afford 1-aminomethyl-1-cyclohexanol which was mixed with DMSO (3 mL) and 1-ethyl-6-methoxy-1H-pyrazolo[3,4-b]quinoline (0.8 g, 3 mmol). The reaction mixture was stirred at 110° C. overnight and then was partitioned between water and CH2Cl2. The CH2Cl2 layer was separated, dried, filtered and evaporated. The residue was crystallized from CH2Cl2 and recrystallized from acetonitrile to afford 0.65 g of 1-ethyl-6-methoxy-N-[(1-hydroxycyclohexyl)methyl]-1H-pyrazolo[3,4-b]quinolin-4-amine, m.p. 201-°203° C.

reactant | 1-Aminomethyl-1-cyclohexanol hydrochloride | 6.04 mmol, 1 g | Cl.NCC1(CCCCC1)O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-aminomethyl-1-cyclohexanol | NCC1(CCCCC1)O | C7H15NO
